US07122580B2
2.18 g (10 mmol) of 2-ethoxycarbonylquinazolin-4-one was suspended in 20 ml of phosphorus oxychloride. The mixture was refluxed for one hour, and the solvent was removed by rotary evaporation. The resulting residue was dissolved in ethyl acetate, and the obtained solution was washed with saturated sodium bicarbonate solution three times, dried over anhydrous sodium sulfate, filtered, and evaporated to give 2.13 g (90% mmol) of 2-ethoxycarbonyl-4-chloroquinazoline as a pale-yellow solid. LC/MS (m/z) 237 (M+1)+.

reactant | 2-ethoxycarbonylquinazolin-4-one | 10 mmol, 2.18 g | C(C)OC(=O)C1=NC2=CC=CC=C2C(N1)=O | C11H10N2O3
reactant | phosphorus oxychloride | 20 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-ethoxycarbonyl-4-chloroquinazoline | 2.13 g, 90% | C(C)OC(=O)C1=NC2=CC=CC=C2C(=N1)Cl | C11H9ClN2O2
